US06596772B1
A suspension of 2,6-Naphthalendicarboxylic acid (10.8 g, 50 mmol) in anhydrous DMF (400 ml) with 1,8-diazabicyclo[5,4,0]undec-7-ene (DBU, 7.5 ml, 50 mmol) was heated to near boiling, then kept stirring at 60° C. To it was added benzyl bromide solution (6 ml, 50 mmol, in 200 ml of DMF) dropwise. After 3 hours the solution was concentrated and 0.5 N HCl/brine (400 ml) was added, extracted with EtOAc and the combined organic extracts were washed with H2O, and taken to dryness to yield a white solid. The solid was dissolved in EtOAc, and NEt3 was added with slight warming to effect total dissolution of all solid. This solution was filtered through silica gel. Initial elution with EtOAc provided 2,6-naphathalenedicarboxylic acid dibenzyl ester. Subsequent elution with EtOAc/Acetic acid (99/1) brought desired product. Evaporation of solvent and suspension of the resulting solid in petroleum ether, following by collection and drying of solid gave pure product 2,6-Naphthalenedicarboxylic acid monobenzyl ester (5 g, 33%). 1H NMR (360 MHz, DMSO-d6) δ13 (br. 1H, —COOH), 8.725 (s, 1H, Ar—H), 8.664 (s, 1H, Ar—H), 8.251(d, J=8.2 Hz, 2H, Ar—H), 8.087-8.044 (m, 2H, Ar—H), 7.539 (d, J=7.0 Hz, 2H, Ar—H), 7.450-7.350 (m, 3H, Ar—H), 5.439 (s, 2H, —COOCCH2—), MS m/e 305 [M+−1].

reactant | 2,6-Naphthalendicarboxylic acid | 50 mmol, 10.8 g | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 50 mmol, 7.5 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | benzyl bromide | 50 mmol, 6 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NEt3 | CCN(CC)CC | C6H15N
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,6-naphathalenedicarboxylic acid dibenzyl ester | C(C1=CC=CC=C1)OC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)OCC1=CC=CC=C1 | C26H20O4
